US09290454B2
Isobutyl chloroformate (0.285 mL, 2.184 mmol) was added to a stirred, 0° C. mixture of 3-(5-(tert-butoxy)-5-oxopentyl)-2-(4-fluorophenyl)-1-oxo-1,2-dihydroisoquinoline-6-carboxylic acid (800 mg, 1.820 mmol) and Hunig's Base (0.636 mL, 3.64 mmol) in Dichloromethane (20 mL) and the mixture was stirred at 0° C. for 3 h. The mixture was concentrated under reduced pressure with bath temp at 20° C., the residue was taken up in Dichloromethane (20 mL), NaBH4 (138 mg, 3.64 mmol) was added, the mixture was stirred at room temperature for 16 h. MeOH (10 mL) was added, and the resultant mixture was kept stirring at room temperature for 1 h. The mixture was diluted with dichloromethane (60 mL), washed with aqueous sodium hydrogen carbonate (saturated, 1×10 mL), dried (MgSO4), filtered and the solvent was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with EtOAc/isohexane=1:1 to give tert-butyl 5-(2-(4-fluorophenyl)-6-(hydroxymethyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate (650 mg, 1.528 mmol) as a white solid.

reactant | Isobutyl chloroformate | 2.184 mmol, 0.285 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 3-(5-(tert-butoxy)-5-oxopentyl)-2-(4-fluorophenyl)-1-oxo-1,2-dihydroisoquinoline-6-carboxylic acid | 1.820 mmol, 800 mg | C(C)(C)(C)OC(CCCCC=1N(C(C2=CC=C(C=C2C1)C(=O)O)=O)C1=CC=C(C=C1)F)=O | C25H26FNO5
reactant | Hunig's Base | 3.64 mmol, 0.636 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH4 | 3.64 mmol, 138 mg | [BH4-].[Na+]
solvent | Dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | MeOH | 10 mL | CO | CH4O
product | tert-butyl 5-(2-(4-fluorophenyl)-6-(hydroxymethyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate | 1.528 mmol, 650 mg | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2C=C1CCCCC(=O)OC(C)(C)C)CO)=O | C25H28FNO4
